Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Macrobid / Penicillins
 
Attending: ___.
 
Chief Complaint:
hypotension 
 
Major Surgical or Invasive Procedure:
___ central line ___
 
History of Present Illness:
___ year old woman with history of ascending aortic aneurysm and 
dissection that is medically managed, recent SBO, HTN, 
presenting from home with n/v and altered mental status. In the 
ED was found to be awake and able to protect her airway, but 
confused and unable to provide history. ___ line placed, was 
fluid responsive initially but then persistently hypotensive and 
started levophed. Started on broad spectrum antibiotics for 
possible sepsis and sent for CXR and CT torso without contrast 
to evaluate for worsening dissection. BPs noted to be different 
in each arm. Vascular consulted, felt she was unlikely to be a 
surgical candidate as during her last admission she was felt not 
to be a surgical candidate, but final recs are pending. Patient 
was sent to ICU for management of hypotension. Review of records 
reveals that she was treated for presumed UTI on ___ with cipro 
250mg BID for 3 days. 

Her son is her HCP is in ___. He was reached by phone. 
Patietn has a DNR status. Per discussion with her son if 
intubation is temporary would be okay for this unless felt to be 
futile. 

Access: 2 peripherals and ___   

In ED initial VS: temperature not recorded, 84  80/37  26
 
Exam:  Altered mental status but awake and protecting her 
airway. 

Labs showed: new leukocytosis of 14.8, hgb 11.5 and plt 213. Cr 
2.6 from baseline of 0.5, hyperkalemic to 6.0, bicarbonate of 11 
with anion gap of 24. INR 1.6 and PTT 74.8. BNP 21623. Troponin 
elevated to 0.11. VBG with lactate of 8.6, 7.22/36/___. UA with 
large leuks, blood, >182 WBC, many bacteria, many yeast. 

Patient was given:  
___ 01:51 IV Piperacillin-Tazobactam 
___ 02:18 IV Vancomycin (1000 mg ordered) 
___ 02:50 IVF  NS  
___ 03:02 IV Insulin Regular 10 units 
___ 03:02 IV Dextrose 50% 25 gm 
___ 03:09 IV Sodium Bicarbonate 50 mEq 

Imaging notable for CXR with No definite focal consolidation. 
Possible trace left pleural effusion. CTA 

Cardiology consulted regarding HR and BP management given known 
conservatively managed aortic dissection. Recommended CTA if 
within goals of care, HR goal 60-80, SBP<110. Vascular was 
consulted and recommended cardiac surgery eval, but likely not 
surgical candidate. 

On arrival to the MICU the patient is awake and looks at 
examiner, responded to one question and followed a few commands 
but not all. She is unable to provide any history or report 
symptoms. 

REVIEW OF SYSTEMS: Unable to obtain further history from 
patient. 

 
Past Medical History:
 SBO in ___, treated conservatively  
 Aortic dissection in ___, not a surgical candidate and 
treated conservatively  
 Hypertension, essential  
 Insomnia  
 History of ___ cancer  
 Hypercholesterolemia  
 Hearing loss, sensorineural  
 Osteopenia  
 Spinal stenosis, lumbar  
 Spondylosis, cervical  
 ___ disease  
 Cancer of upper-inner quadrant of female breast  
 Cognitive impairment 

 
Social History:
___
Family History:
FAMILY HISTORY:  
Father  Cancer - ___ Hypertension 
Mother  ___ (___); ___ Cancer; Osteoporosis 
 
Physical Exam:
ADMIT EXAM
==========
VITALS:  96.8   103   105/42   26   100% 
GENERAL: Lyingin bed, awake, looks toward examiner, does not 
appear to be in distress, not responding appropriately to 
questions (Asks "What"). 
HEENT: Sclera anicteric, dry MM, oropharynx clear  
NECK: supple, JVP not elevated
LUNGS: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi, appears to be breathing comfortably   
CV: tachycardic, holosystolic murmur audible loudest in LUSB as 
well as soft diastolic murmur. 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Cool to the knees, unable to appreciate DP pulses, no 
cyanosis or edema  
SKIN: unremarkable   
NEURO: Awake, says "what" and answered one question 
appropriately with "yes". Moves both arms, able to squeeze 
fingers. Does not move lower extremities on command. Pupils 
reactive and equal, face symmetric  

DISCHARGE EXAM
==============
Deceased
 
Pertinent Results:
___ 01:22AM BLOOD WBC-14.8*# RBC-3.99 Hgb-11.5 Hct-37.8 
MCV-95 MCH-28.8 MCHC-30.4* RDW-17.7* RDWSD-61.5* Plt ___
___ 05:46AM BLOOD Neuts-80* Bands-2 Lymphs-7* Monos-8 Eos-0 
Baso-1 ___ Metas-1* Myelos-1* NRBC-1* AbsNeut-14.35* 
AbsLymp-1.23 AbsMono-1.40* AbsEos-0.00* AbsBaso-0.18*
___ 05:46AM BLOOD ___ PTT-33.8 ___
___ 05:46AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-3+ 
Macrocy-1+ Microcy-OCCASIONAL Polychr-OCCASIONAL Ovalocy-1+ 
Burr-3+ Tear Dr-OCCASIONAL
___ 05:46AM BLOOD Glucose-220* UreaN-44* Creat-2.4* Na-139 
K-4.3 Cl-103 HCO3-12* AnGap-28*
___ 05:46AM BLOOD ALT-185* AST-202* LD(LDH)-2250* 
AlkPhos-62 TotBili-1.5
___ 05:46AM BLOOD CK-MB-2 cTropnT-0.15*
___ 01:22AM BLOOD CK-MB-2 ___
___ 01:22AM BLOOD Albumin-2.9* Calcium-8.0* Phos-7.6* 
Mg-1.9
___ 06:03AM BLOOD ___ pO2-33* pCO2-41 pH-7.20* 
calTCO2-17* Base XS--12
___ 01:34AM BLOOD Lactate-8.6*
___ 06:03AM BLOOD Lactate-8.3* K-4.4
___ 01:40AM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 01:40AM URINE RBC-29* WBC->182* Bacteri-MANY Yeast-MANY 
Epi-6
___ 01:40AM URINE CastHy-37*

MICRO: 
blood cultures, urine cultures, MRSA screen, and VRE screen 
pending at death

CT-Torso w/o con ___. Interval increase in caliber of a known ascending thoracic 
aortic aneurysm, now measuring 6.8 x 7.4 cm (previously 5.3 x 
5.8 cm).  No mediastinal hematoma or adjacent fat stranding. 
2. Small bilateral simple pleural effusions. 
3. Small amount of simple free fluid in the abdomen and pelvis. 

CXR ___
No definite focal consolidation.  Possible trace left pleural 
effusion.
 
Brief Hospital Course:
___ year old woman with history of ascending aortic aneurysm and 
dissection that is medically managed, recent SBO, HTN, 
presenting from home with n/v and altered mental status. In the 
ED found to be severely hypotensive with enlarged ascending 
aortic aneurism and pyuria.  Central access placed in ED, and 
started on norepinephrine. Arrived to the ICU tachypnic but able 
to respond in ___ word answers. Had increasing pressor 
requirement (ultimately maxed out on norepinephrine, 
vasorpessin, phenylephrine). Family contacted who endorsed 
intensive care if recovery was possible, however did not want to 
pursue futile care.  Patient became progressively hypotensive 
and acutely bradycardic. Family was on the phone, and changed 
her code status to ___ focused care. She expired shortly 
after. 

Given acute decompensation with bradycardia, lack of fluid 
responsiveness (?worsened BP with fluid boluses), decreasing H&H 
(didn't increase after 2 transfusions) and expansion of aneurysm 
on imaging, the favored diagnosis was cardiogenic shock due to 
valvular insufficiency or ruptured aneurysm. Felt less likely to 
be septic shock from UTI. 

Prior to her death, she had evidence of acute renal failure 
(baseline Cr 0.2, on presentation was 2.6), shock liver, 
elevated troponins, and worsened mental state. 
 
Medications on Admission:
Last discharge med list   
1.  Carvedilol 12.5 mg PO BID  
2.  Alendronate Sodium 70 mg PO QTHUR  
3.  Aspirin 81 mg PO DAILY  
4.  Carbidopa-Levodopa (___) 1 TAB PO TID  
5.  Lovastatin 40 mg oral QHS  
6.  melatonin 1 mg oral QHS  
7.  TraZODone 25 mg PO QPM  
8.  TraZODone 25 mg PO TID:PRN anxiety  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
- Ascending aortic aneurysm 
- Cardiogenic shock 
- acute renal failure 
- shock liver (ischemic hepatitis)
- elevated troponins(NSTEMI vs dissection) 
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___